US08471005B2
Into a 8-dram vial, N-[2-(2-Hydroxy-5-methyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide (210 mg, 0.63 mmol), N,N-Dimethylformamide (2.33 mL), N,N-Diisopropylethylamine (0.247 mL, 1.42 mmol), and N-Phenylbis(trifluoromethanesulphonimide) (0.276 g, 0.773 mmol) were added. The reaction was stirred at room temperature for 30 minutes. 4-(4-Amino-3-methoxy-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (0.434 g, 1.42 mmol) was then added. The reaction mixture was heated at 120° C. for 4 hours. The solvent was removed under vacuum overnight. The resulting solid was treated with Methylene chloride (3.50 mL, 54.6 mmol) and Trifluoroacetic Acid (1.17 mL, 15.1 mmol) and stirred at room temperature overnight. The solvent was removed under vacuum. The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in ACN. The collected fractions were lyophilized to give a yellow solid. The solid was partitioned with NaHCO3 and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum to give N-{2-[2-(2-Methoxy-4-piperidin-4-yl-phenylamino)-5-methyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide a yellow solid (0.135 g, 41%). LCMS (E/I+) 521.13 (M+H). NMR 1H (DMSO-d6)-8.96 (s, 1H), 8.47-8.62 (m, 1H), 8.15-8.33 (m, 1H), 7.88-8.00 (m, 2H), 7.46-7.68 (m, 4H), 6.84 (s , 1H), 6.82 (s, 1H), 6.66 (d, 1H, J=8.11 Hz), 3.86 (s, 3H), 3.39 (d, 2H, J=12.75), 3.07 (s, 3H), 2.90-3.04 (m, 2H), 2.88 (s, 3H), 2.72-2.84 (m, 1H), 1.95 (d, 2H, J=13.48 Hz), 1.68-1.84 (m, 2H).

reactant | N-[2-(2-Hydroxy-5-methyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | 0.63 mmol, 210 mg | OC1=NN2C(C=N1)=C(C=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C)C | C15H16N4O3S
reactant | N,N-Diisopropylethylamine | 1.42 mmol, 0.247 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-Phenylbis(trifluoromethanesulphonimide) | 0.773 mmol, 0.276 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | 4-(4-Amino-3-methoxy-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.42 mmol, 0.434 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC(=C(C=C1)N)OC | C17H26N2O3
reactant | Methylene chloride | 54.6 mmol, 3.50 mL | C(Cl)Cl | CH2Cl2
reactant | Trifluoroacetic Acid | 15.1 mmol, 1.17 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | N,N-Dimethylformamide | 2.33 mL | CN(C=O)C | C3H7NO
product | N-{2-[2-(2-Methoxy-4-piperidin-4-yl-phenylamino)-5-methyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide | COC1=C(C=CC(=C1)C1CCNCC1)NC1=NN2C(C=N1)=C(C=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C)C | C27H32N6O3S
